US07919519B2
Methyl-1-((3-fluoro-4-(5-(pyridin-3-ylmethyl)benzofuran-2-yl)phenyl)methyl)azetidine-3-carboxylate
Synthesized according to Scheme B3 and general procedure G from 2-iodo-4-(pyridin-3-ylmethyl)phenol (0.305 g, 0.98 mmol) and methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate (0.220 g, 0.89 mmol): yellow solid. MS (ESI) m/z: Calculated: 430.2; Observed: 431.5 (M++1).

reactant | 2-iodo-4-(pyridin-3-ylmethyl)phenol | 0.98 mmol, 0.305 g | IC1=C(C=CC(=C1)CC=1C=NC=CC1)O | C12H10INO
reactant | methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate | 0.89 mmol, 0.220 g | C(#C)C1=C(C=C(CN2CC(C2)C(=O)OC)C=C1)F | C14H14FNO2
product | Methyl-1-((3-fluoro-4-(5-(pyridin-3-ylmethyl)benzofuran-2-yl)phenyl)methyl)azetidine-3-carboxylate | COC(=O)C1CN(C1)CC1=CC(=C(C=C1)C=1OC2=C(C1)C=C(C=C2)CC=2C=NC=CC2)F | C26H23FN2O3
